US04624949
To a stirred solution of 6-cyano-6H-dibenzo[b,d]thiopyran (4.5 g; 0.02 mol) and CH3I (28.4 g; 0.2 mol) in 100 ml of dimethylformamide, 50% NaH (1.5 g; 0.03 mol) was added in small portions. After 16 hours at room temperature the mixture was poured into water and extracted with diethyl ether. The organic phase was washed with water and dried over Na2SO4. Evaporation of the solvent gave 6-cyano-6-methyl-6H-dibenzo[b,d]thiopyran (3.58 g; 0.015 mol; yield 75%).

reactant | 6-cyano-6H-dibenzo[b,d]thiopyran | 0.02 mol, 4.5 g | C(#N)C1C2=C(C3=C(S1)C=CC=C3)C=CC=C2 | C14H9NS
reactant | CH3I | 0.2 mol, 28.4 g | CI | CH3I
reactant | NaH | 0.03 mol, 1.5 g | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-cyano-6-methyl-6H-dibenzo[b,d]thiopyran | 0.015 mol, 3.58 g, yield 75% | C(#N)C1(C2=C(C3=C(S1)C=CC=C3)C=CC=C2)C | C15H11NS
